US04035370
1 g. (0.0031 moles) of apovincaminic acid and 0.17 g. (0.003 moles) of potassium hydroxide are dissolved in 80 ml. of anhydrous ethanol, thereafter 0.4 g. (0.0036 moles) of ethyl bromide are added to the solution. The solution is boiled under reflux for 3 hours. The reaction is monitored by layer chromatography. The solution is cooled and evaporated to dryness under reduced pressure. The dry residue is dissolved in 500 ml. of 2% aqueous sulfuric acid, and the solution is filtered. The pH of the filtrate is adjusted to 8 with 5% aqueous sodium hyrodxide solution. A small amount of precipitate separates. The mixture is extracted with 200 ml. portions of methylene chloride until no positive Mayer reaction can be observed in the aqueous phase. The organic phases are separated, combined, dried over anhydrous potassium carbonate, filtered and evaporated to dryness under reduced pressure. The dry residue is dissolved in 10 ml. of anhydrous ethanol, and the solution is left to crystallize at 0° to 2° C for 10 hours. 0.66 g. of apovincaminic acid ethyl ester are obtained (yield: 66%). On the basis of layer chromatography, a uniform product is formed. M.p.: 144° C (Boetius).

reactant | apovincaminic acid | 0.0031 moles | CC[C@@]12CCCN3[C@@H]1C4=C(CC3)C5=CC=CC=C5N4C(=C2)C(=O)O | C20H22N2O2
reactant | potassium hydroxide | 0.003 moles | [OH-].[K+]
reactant | ethyl bromide | 0.0036 moles | C(C)Br | C2H5Br
solvent | ethanol | C(C)O | C2H6O
product | apovincaminic acid ethyl ester | yield: 66% | CC[C@@]12CCCN3[C@@H]1C4=C(CC3)C5=CC=CC=C5N4C(=C2)C(=O)OCC | C22H26N2O2
